US08431597B2
(2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate
(2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-(methylsulfonyloxy)ethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate (65 mg, 0.11 mmol) was dissolved in TFA (1 mL) and stirred at room temperature for 2 hours. The reaction mixture was concentrated to removed TFA, the residue was dissolved in DMF (1 mL) and K2CO3 (30 mg, 0.22 mmol) was added to it, the resulting mixture was stirred at 60° C. for over night. Water and ethyl acetate were added to reaction mixture, the organic layer was separated and dried over MgSO4 and concentrated. Purification was done by Companion (ReadSep, 12 g, silica gel packed) with CH3OH/CH2Cl2 from 1-5% to give a white solid 30 mg (60%) as title compound. LC-MS: 405.2 (t=1.4 min).

reactant | (2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-(methylsulfonyloxy)ethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate | 0.11 mmol, 65 mg | O1C2=C(OCC1)C=C(C=C2)C(=O)N[C@H]2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C2=NC1=C(N2CCOS(=O)(=O)C)C=CC=C1 | C29H36N4O8S
reactant | K2CO3 | 0.22 mmol, 30 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate | 30 mg, 60% | O1C2=C(OCC1)C=C(C=C2)C(=O)N[C@H]2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C2=NC1=C(N2CCOC2OCCCC2)C=CC=C1 | C33H42N4O7
